US06166030
N-(2-Isopropyl-1,2,3,4-tetrahydroisoquinolin-7-yl)-2-thiophenecarboximidamide
To a stirred solution of N-(1,2,3,4-tetrahydroisoquinolin-7-yl)-2-thiophenecarboximidamide (7.0 g, 21 mmol) in dimethylformamide (100 ml) was added potassium carbonate (14.6 g, 100 mmol). To this mixture was added 2-bromopropane (5.1 g, 42 mmol), and the mixture was then heated to 40° C. for 72 h. The reaction mixture was poured into water (500 ml) and extracted with ethyl acetate (3×100 ml). The combined ethyl acetate extracts were washed with water (200 ml) and dried over magnesium sulfate. Evaporation of the solvent yielded a crude oil, which was then dissolved in hot cyclohexane (250 ml) and ethyl acetate (10 ml). Upon standing the title compound crystallized out and was collected by filtration (3.2 g), m.p. 110-111° C.

reactant | N-(1,2,3,4-tetrahydroisoquinolin-7-yl)-2-thiophenecarboximidamide | 21 mmol, 7.0 g | C1NCCC2=CC=C(C=C12)NC(=N)C=1SC=CC1 | C14H15N3S
reactant | potassium carbonate | 100 mmol, 14.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromopropane | 42 mmol, 5.1 g | BrC(C)C | C3H7Br
reactant | water | 500 ml | O | H2O
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | cyclohexane | 250 ml | C1CCCCC1 | C6H12
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | N-(2-Isopropyl-1,2,3,4-tetrahydroisoquinolin-7-yl)-2-thiophenecarboximidamide | C(C)(C)N1CC2=CC(=CC=C2CC1)NC(=N)C=1SC=CC1 | C17H21N3S
